US06660753B2
3-(3-Cyano-5-(1H-imidazol-1-yl)phenyl)-5-(2-pyridyl)-1,2,4-oxadiazole
In a screw cap vial equipped with stir bar added 3-(3-Cyano-5-fluorophenyl)-5-(2-Pyridyl)-1,2,4-oxadiazole (20 mg, 0.08 mmol), potassium carbonate (20.8 mg, 0.15 mmol), imidazole (7.7 mg, 0.11 mmol) and dimethylformamide (1 ml). Stirred the resulting mixture at 120° C. for 2 h. The reaction mixture was diluted with chloroform (30 ml) and washed with water (30 ml). The aqueous phase was re-extracted with chloroform (30 ml) and the combined organic phase was dried (sodium sulfate), filtered and concentrated in-vacuo. The crude residue was purified on silica gel using 1% methanol in dichloromethane to isolate the free base of the desired compound as a white solid. The free base was converted to it's hydrochloride salt (11.7 mg), white solid. 1H-NMR (DMSO), δ (ppm): 9.81 (s, 1H), 8.83 (m, 4H), 8.42 (m, 2H), 8.19 (dt, 1H), 7.92 (s, 1H), 7.80 (dd, 1H).

reactant | 3-(3-Cyano-5-fluorophenyl)-5-(2-Pyridyl)-1,2,4-oxadiazole | 0.08 mmol, 20 mg | C(#N)C=1C=C(C=C(C1)F)C1=NOC(=N1)C1=NC=CC=C1 | C14H7FN4O
reactant | potassium carbonate | 0.15 mmol, 20.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | imidazole | 0.11 mmol, 7.7 mg | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-Cyano-5-(1H-imidazol-1-yl)phenyl)-5-(2-pyridyl)-1,2,4-oxadiazole | C(#N)C=1C=C(C=C(C1)N1C=NC=C1)C1=NOC(=N1)C1=NC=CC=C1 | C17H10N6O
